US05795887
N-Isopropyl-2-[5-methyl-2-oxo-3-(3-phenyl-ureido)-2,3-dihydro- benzo[e][1,4]diazepin-1-yl]-N-phenyl-acetamide
According to Process A, phenyl isocyanate (0.065 mL, 0.602 mmol) is added to a solution of 2-(3-Amino-5-methyl-2-oxo-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide (219 mg, 0.602 mmol), prepared as in Intermediate 24, under nitrogen in DCM (3 mL). The reaction mixture is stirred at ambient temperature overnight and then concentrated in vacuo. The residue is dissolved in ethyl acetate, washed twice with 1N HCl, dried over anhydrous magnesium sulfate, and then concentrated again to a residue. The crude product is purified by reversed-phase HPLC on a C-18 column with 60% acetonitrile in aqueous trifluoroacetic acid (0.1% v/v) over 30 min. at 100 mL/min. Fractions containing the product are combined, frozen and lyophilized to provide the title compound as a white lyophile (92 mg, 0.190 mmol). 1H NMR (300 MHz, CDCl3) δ=1.02-1.25 (m, 6H); 2.59 (s, 3H); 4.08 (d, J=16.9 Hz, 1H); 4.17 (d, J=16.9 Hz, 1H); 4.93-5.00 (m, 1H); 5.56 (d, J=6.3 Hz, 1H); 7.02-7.61 (m, 14H); MS(FAB): [M+H]+ =484.

reactant | phenyl isocyanate | 0.602 mmol, 0.065 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-(3-Amino-5-methyl-2-oxo-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide | 0.602 mmol, 219 mg | NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C | C21H24N4O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-Isopropyl-2-[5-methyl-2-oxo-3-(3-phenyl-ureido)-2,3-dihydro- benzo[e][1,4]diazepin-1-yl]-N-phenyl-acetamide | C(C)(C)N(C(CN1C(C(N=C(C2=C1C=CC=C2)C)NC(=O)NC2=CC=CC=C2)=O)=O)C2=CC=CC=C2 | C28H29N5O3
